US05703099
Methyl 3-(3-formylpropyl)phenoxyacetate
To a solution of oxalyl chloride (1.26 ml) in methylene chloride (30 ml) at -70° C., a solution of dimethylsulfoxide (2.11 ml) in methylene chloride (3.0 ml) was added dropwise. To the obtained solution, a solution of methyl 3-(4-hydroxybutyl)phenoxyacetate (1.94 g) in methylene chloride (8.0 ml) was added dropwise. Triethylamine (6.9 ml) was added dropwise thereto while the reaction temperature was maintained at -70° C. The reaction mixture was warmed slowly to -40° C. over a 30 min period and then quenched by addition of a saturated aqueous solution of ammonium chloride. The reaction mixture was extracted with ether. The extract was washed with a saturated aqueous solution of ammonium chloride and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=5:2) to give the title compound (1.41 g) having the following physical data.

reactant | oxalyl chloride | 1.26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 2.11 ml | CS(=O)C | C2H6OS
reactant | methyl 3-(4-hydroxybutyl)phenoxyacetate | 1.94 g | OCCCCC=1C=C(OCC(=O)OC)C=CC1 | C13H18O4
reactant | Triethylamine | 6.9 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8.0 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-(3-formylpropyl)phenoxyacetate | 1.41 g | C(=O)CCCC=1C=C(OCC(=O)OC)C=CC1 | C13H16O4
